US04436753
To a solution of 3 g of the above 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoic acid in 10 ml of methanol is added p-toluenesulfonic acid (30 mg), followed by heating under reflux for 2 hours. After cooling to room temperature, water is added and the mixture is stirred at 0° C. to give colorless crystals of methyl 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoate. m.p. 72°-72.5° C.

reactant | 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoic acid | 3 g | OC1=C(C(=O)CCCCCCCCCCCCCCCCCCCCC(=O)O)C(=CC(=C1OC)OC)C | C31H52O6
reactant | p-toluenesulfonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | methyl 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoate | OC1=C(C(=O)CCCCCCCCCCCCCCCCCCCCC(=O)OC)C(=CC(=C1OC)OC)C | C32H54O6
